US06844367B1
A steam of H2S (g) was bubbled through a 0° C. solution of N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}[4-(2-cyanophenyl)phenyl]carboxamide (100 mg, 0.22 mmol, 1.0 equiv.) in 9 mL pyridine and 1 mL NEt3 until saturation. The mixture was stirred at rt for 1 day and evaporated. The resulting residue was treated with MeI (94 mg, 0.663 mmol, 3.0 equiv.) in 10 mL acetone at reflux temperature for 1 hr and concentrated to dryness. The resulting residue was treated with a mixture of NH4OAc (340 mg, 4.42 mmol, 20 equiv.) in 0.5 mL acetic acid and 2 mL methanol at 50° C. for 2 days. The solvent was removed at reduced pressure and the crude benzamidine was purified by HPLC (C18 reversed phase) eluting with 0.1% TFA in H2O/CH3CN to give 2-[4-(N-{2-[N-(5-chloro-2-pyridyl)carbamoyl]phenyl}carbamoyl)phenyl]benzenecarboxamidine (15 mg, 15%). MS found for C26H20ClN5O2 (M+H)+: 470.

reactant | H2S | S | H2S
reactant | N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]phenyl}[4-(2-cyanophenyl)phenyl]carboxamide | 0.22 mmol, 100 mg, 1.0 equiv. | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C26H17ClN4O2
reactant | MeI | 0.663 mmol, 94 mg, 3.0 equiv. | CI | CH3I
reactant | pyridine | 9 mL | N1=CC=CC=C1 | C5H5N
solvent | NEt3 | 1 mL | CCN(CC)CC | C6H15N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 2 mL | CO | CH4O
product | 2-[4-(N-{2-[N-(5-chloro-2-pyridyl)carbamoyl]phenyl}carbamoyl)phenyl]benzenecarboxamidine | 15 mg, 15% | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC=C1)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C(=N)N | C26H20ClN5O2
